US05747499
A suspension of methyl α-amino-p-methoxycarbonylmethylphenylacetate (2.3 g, 7 mmol) in 60 ml of 6N HCl was refluxed for 12 hours. After cooling white needles were collected. The aqueous layers were extracted with ethyl acetate. The organic layers were evaporated and the solids combined to give (RS)-α-amino-p-carboxymethylphenylacetic acid (1.45 g, 83%);

reactant | methyl α-amino-p-methoxycarbonylmethylphenylacetate | 7 mmol, 2.3 g | NC(C(=O)OC)C1=CC=C(C=C1)CC(=O)OC | C12H15NO4
solvent | HCl | 6N, 60 ml | Cl | ClH
product | (RS)-α-amino-p-carboxymethylphenylacetic acid | 1.45 g, 83% | NC(C(=O)O)C1=CC=C(C=C1)CC(=O)O | C10H11NO4
